* source FSD
V_V1         N00204 0 10Vdc
R_R1         N00204 N00186  1k TC=0,0 
R_R2         0 N00186  4k TC=0,0 
R_R3         0 N00186  2k TC=0,0 
L_L1         N00186 N00149  1mH  
X_U1         0 N00149 Sw_tClose PARAMS: tClose=5 ttran=1u Rclosed=0.01
+  Ropen=100000Meg
